US04216312
2,4-Dimethyl-3-carbethoxyfuran (42.8 g.) prepared in accordance with J. Amer. Chem. Soc., v. 73, 356 (1951) was dissolved in ether (100 ml.) and added slowly to a cooled (0°) slurry of lithium aluminum hydride (10 g.) in ether (200 ml.) and the mixture was then stirred at room temperature for 18 hours. After this time, the mixture was cooled in an ice bath and quenched with an aqueous solution of sodium sulfate (60 ml.; saturated) followed by the addition of solid magnesium sulfate. The solids were filtered off, washed well with additional ether and the combined ether extract was concentrated to yield 2,4-dimethyl-3-hydroxymethylfuran. Distillation gave pure 2,4-dimethyl-3-hydroxymethylfuran (21.1 g.) bp 63°-65° at 2 mm Hg.

reactant | 2,4-Dimethyl-3-carbethoxyfuran | 42.8 g | CC=1OC=C(C1C(=O)OCC)C | C9H12O3
reactant | lithium aluminum hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2,4-dimethyl-3-hydroxymethylfuran | CC=1OC=C(C1CO)C | C7H10O2
